US05159114
A suspension of N-(2-methoxyethyl)-4-methylthio-3-nitrobenzamide (1.6 g) and palladium on charcoal (1.1 g; 5%) in ethyl acetate (60 ml) was shaken under an atmosphere of hydrogen at atmospheric pressure until hydrogen uptake ceased. The mixture was filtered and the residue was rinsed with ethyl acetate. The filtrate was concentrated in vacuo to leave N-(2-methoxyethyl)-4-methylthio-3-aminobenzamide (1.35 g) in the form of an oil that crystallised on standing, m.p. 66°-68° C. [Elemental analysis: C,54.8; H,6.69; N,11.5; S,12.9%; calculated: C,54.98; H,6.71; N,11.66; S,13.34%].

reactant | N-(2-methoxyethyl)-4-methylthio-3-nitrobenzamide | 1.6 g | COCCNC(C1=CC(=C(C=C1)SC)[N+](=O)[O-])=O | C11H14N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1.1 g | [Pd] | Pd
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-methoxyethyl)-4-methylthio-3-aminobenzamide | 1.35 g | COCCNC(C1=CC(=C(C=C1)SC)N)=O | C11H16N2O2S
